US05223499
Step 1: Preparation of 7-methyl-2-propyl-6-[(1-oxobutyl)amino]3H-imidazo[4,5-b]pyridine
The title compound was prepared from 2-amino-4-methyl-3,5-dinitropyridine according to method described in Example 1, Step 2 using butyric acid in the place of valeric acid.

reactant | 2-amino-4-methyl-3,5-dinitropyridine | NC1=NC=C(C(=C1[N+](=O)[O-])C)[N+](=O)[O-] | C6H6N4O4
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 7-methyl-2-propyl-6-[(1-oxobutyl)amino]3H-imidazo[4,5-b]pyridine | CC1=C2C(=NC=C1NC(CCC)=O)NC(=N2)CCC | C14H20N4O
